US05112998
To a solution of 3.00 g (6.98 mmoles) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-7α-hydroxypregna-1,4-dien-3-one in 200 ml of benzene was added 50 mg of p-toluenesulfonic acid and the mixture was refluxed for 5 hours, with the byproduct water being constantly removed from the reaction system by means of a Dean-Stark trap. The reaction mixture thus obtained was cooled to room temperature and washed with aqueous sodium hydrogen carbonate solution. The aqueous layer was extracted with ether and the extract was combined with the organic layer. This mixture was washed with aqueous sodium chloride solution and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. Finally the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane =1:10, v/v) to recover 2.58 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one (yield: 90%). The 1H-NMR spectrum of this product was in agreement with that of the 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one obtained in Example 3.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-7α-hydroxypregna-1,4-dien-3-one | 6.98 mmoles, 3.00 g | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](CC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)O)C | C27H40O4
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one | 2.58 g, yield: 90% | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)C | C27H38O3
